US08314087B2
2-(7-Methoxyquinolin-4-yloxy)propan-1-ol.
A solution of 4-(1-tert-butoxypropan-2-yloxy)-7-methoxyquinoline in TFA (10 mL) was stirred for 45 min at 23° C. The solvent was removed under reduced pressure and the residue was partitioned between CH2Cl2 and 10% Na2CO3. The aqueous layer was extracted with CH2Cl2 (5 mL×4) and the combined organics were dried over MgSO4. The mixture was purified on 12 grams of silica eluting with 0-100% of 5% MeOH/CH2Cl2. MS (ESI pos. ion) m/z (MH+): 234. Calc'd exact mass for C13H15NO3: 233.

reactant | 4-(1-tert-butoxypropan-2-yloxy)-7-methoxyquinoline | C(C)(C)(C)OCC(C)OC1=CC=NC2=CC(=CC=C12)OC | C17H23NO3
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(7-Methoxyquinolin-4-yloxy)propan-1-ol | COC1=CC=C2C(=CC=NC2=C1)OC(CO)C | C13H15NO3
